US04978385
5-Allyl-4-chloro-N-(2,6-diethyl-4-methylphenyl)-2,6-dimethyl-3-pyridinecarboxamide (Method A)
A mixture of 0.85 g (2.41 m mol) of 5-allyl-N-(2,6-diethyl-4-methylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide and 5 ml of phosphorus oxychloride was heated under reflux for an hour. An excess of phosphorus oxychloxide was removed under vacuum, and the residue was dissolved in 100 ml of methylene chloride. Then the resulting solution was added into 150 ml of saturated sodium bicarbonate solution, followed by stirring for an hour at room temperature. The organic layer was washed with water, dried and concentrated by the conventional method. The resultant crystalline residue was recrystallized from ethyl acetate to give 0.84 g of the title compound, m.p. 192.5°-194° C.

reactant | 5-allyl-N-(2,6-diethyl-4-methylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide | 0.85 g | C(C=C)C=1C(C(=C(NC1C)C)C(=O)NC1=C(C=C(C=C1CC)C)CC)=O | C22H28N2O2
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Allyl-4-chloro-N-(2,6-diethyl-4-methylphenyl)-2,6-dimethyl-3-pyridinecarboxamide | 0.84 g | C(C=C)C=1C(=C(C(=NC1C)C)C(=O)NC1=C(C=C(C=C1CC)C)CC)Cl | C22H27ClN2O
